US04521422
A mixture of 0.01 mole of 1-(2-thienyl)butan-1,3-dione was reacted with pyrrolidine in ethyl acetate to give 3-(1-pyrrolidinyl)-1-(2-thienyl)-2-buten-1-one, mp 154°-156° C.

reactant | 1-(2-thienyl)butan-1,3-dione | 0.01 mole | S1C(=CC=C1)C(CC(C)=O)=O | C8H8O2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1-pyrrolidinyl)-1-(2-thienyl)-2-buten-1-one | N1(CCCC1)C(=CC(=O)C=1SC=CC1)C | C12H15NOS
